US06329392B1
1-Benzyl-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-trifluoromethyl-phenylmethyl)-2-oxo-pyrrolidine
Combine 1-benzyl-3-(4-trifluoromethyl-phenylmethyl)-3-(2-oxo-ethyl)-2-oxo-pyrrolidine (1.70 g, 4.15 mmol) and [1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidine trifluoroacetic acid salt (1.40 g, 3.11 mmol) in methanol (30 mL). Stir in freshly crushed 3 Å sieves. Cool the reaction mixture to 0-5° C. and add citric acid until pH=5. Add sodium cyanoborohydride (393 mg, 5.60 mmol) in portions. Stir overnight, allowing the reaction mixture to warm to room temperature. Pour solution into saturated NH4Cl, stir vigorously and extract with CH2Cl2. Separate the organic layer, extract with 1N NaOH, dry over Na2SO4, filter and concentrate in vacuo. Chromatograph the residue on silica gel eluting sequentially with 10% methanol/dichloromethane (with 0.1% concentrated NH4OH), then with 40% methanol. Further purify by chromatographing the residue on silica gel eluting sequentially with 20% ethyl acetate/hexane, then with methanol/ethyl acetate/hexane(20/20/60, with 0.1% concentrated NH4OH). Recrystallize from hexane to obtain the title compound as a white solid: mp; 104.5-106.0° C.; Rf=0.16 (silica gel, 10% MeOH/CH2Cl2 with 0.1% concentrated NH4OH). Elemental Analysis calculated for C41H40F6N4O2: C 65.98; H 4.72; N 2.85; Found: C 66.16; H 4.61; N 2.80.

reactant | 1-benzyl-3-(4-trifluoromethyl-phenylmethyl)-3-(2-oxo-ethyl)-2-oxo-pyrrolidine | 4.15 mmol, 1.70 g | C(C1=CC=CC=C1)N1C(C(CC1)(CC=O)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H20F3NO2
reactant | [1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidine trifluoroacetic acid salt | 3.11 mmol, 1.40 g | FC(C(=O)O)(F)F.FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)N3CCCCC3)C=C1
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium cyanoborohydride | 5.60 mmol, 393 mg | C(#N)[BH3-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methanol | 30 mL | CO | CH4O
product | 1-Benzyl-3-[2-[4-[1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(4-trifluoromethyl-phenylmethyl)-2-oxo-pyrrolidine | C(C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=C(C=C1)C(F)(F)F)CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C41H40F4N4O2
